US08426358B2
Synthesis of 3-(5-(dodecylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile
The title compound was prepared according to Example 1 by using 5-(dodecylthio)-1,3,4-thiadiazole-2-thiol (319 mg, 1.00 mmol), NaH (60% dispersion in mineral oil, 44 mg, 1.10 mmol), and 3-chloropyrazine-2-carbonitrile (140 mg, 1.00 mmol) in DMF and benzene (6 ml, 1/1) by stirring at room temperature under nitrogen atmosphere overnight.

reactant | 5-(dodecylthio)-1,3,4-thiadiazole-2-thiol | 1.00 mmol, 319 mg | C(CCCCCCCCCCC)SC1=NN=C(S1)S | C14H26N2S3
reactant | NaH | 1.10 mmol, 44 mg | [H-].[Na+]
reactant | 3-chloropyrazine-2-carbonitrile | 1.00 mmol, 140 mg | ClC=1C(=NC=CN1)C#N | C5H2ClN3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | 6 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-(dodecylthio)-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile | C(CCCCCCCCCCC)SC1=NN=C(S1)SC=1C(=NC=CN1)C#N | C19H27N5S3
